US06008230
A mixture of 4-allyloxy-8-nitroquinoline (110 mg) and iron (268 mg) in acetic acid (0.4 ml) and ethanol (1.6 ml) was refluxed for 1 hour. Insoluble material was filtered off and the filtrate was concentrated in vacuo. The residue was dissolved in dichloromethane, and the solution was washed with saturated sodium bicarbonate solution and water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (ethyl acetate-n-hexane) to give 8-amino-4-allyloxyquinoline (87 mg).

reactant | 4-allyloxy-8-nitroquinoline | 110 mg | C(C=C)OC1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C12H10N2O3
solvent | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 1.6 ml | C(C)O | C2H6O
catalyst | iron | 268 mg | [Fe] | Fe
product | 8-amino-4-allyloxyquinoline | 87 mg | NC=1C=CC=C2C(=CC=NC12)OCC=C | C12H12N2O
